US09315491B2
Acetyl chloride (100 ml, 36 eq.) was added dropwise to absolute EtOH (780 ml) at 0° C. After stirring the resulting solution for 20 min at r.t., 5-ethoxy-2,6-dihydroxy-pyrimidine-4-carboxylic acid (7.76 g, 1 eq.) was added in one portion and the mixture was refluxed overnight. The volatiles were evaporated in vacuo to give 5-ethoxy-2,6-dihydroxy-pyrimidine-4-carboxylic acid ethyl ester as an off-white solid (8.85 g, 100%).

reactant | Acetyl chloride | 100 ml, 36 eq. | C(C)(=O)Cl | C2H3ClO
reactant | 5-ethoxy-2,6-dihydroxy-pyrimidine-4-carboxylic acid | 7.76 g, 1 eq. | C(C)OC=1C(=NC(=NC1O)O)C(=O)O | C7H8N2O5
solvent | EtOH | 780 ml | CCO | C2H6O
product | 5-ethoxy-2,6-dihydroxy-pyrimidine-4-carboxylic acid ethyl ester | 8.85 g, 100% | C(C)OC(=O)C1=NC(=NC(=C1OCC)O)O | C9H12N2O5
